US07807838B2
Preparation of 3-cyclopentyl-5-(2,6-diethylpyridin-4-yl)-3-hydroxypentanoic acid
A clean 2-L, 3-neck flask was charged with LiHMDS (1.0 M in THF, 355 mL, 0.355 mol) and purged with nitrogen. The flask was cooled to −34° C. An addition funnel was then charged with EtOAc (35 mL, 0.3583 mol) and this reagent was slowly added to the reaction vessel at such a rate that the low temperature of the vessel could be maintained. After complete EtOAc addition another addition funnel was charged with the 1-cyclopentyl-3-(2,6-diethylpyridin-4-yl)propan-1-one solution (crude MTBE soln from prior reaction, theor. 73.47 g, 0.2832 mol) and rinsed over with THF (anhydrous, 5 mL). The 1-cyclopentyl-3-(2,6-diethylpyridin-4-yl)propan-1-one solution was slowly added to the reaction flask at such a rate that the low internal temperature could be maintained. Five minutes after complete addition, a reaction aliquot was removed and analyzed by HPLC, showing less than 1% 1-cyclopentyl-3-(2,6-diethylpyridin-4-yl)propan-1-one. Ten minutes after complete ketone addition, the bath was switched to 0° C. Once the internal temperature had warmed to −10° C., 1M NaOH (510 mL) was added. After complete NaOH soln addition, the reaction was heated to 50° C. After 21 hours the reaction solution was cooled below 30° C. and an aliquot of both layers was removed and analyzed for completion. The mixture was added to a separatory funnel with MTBE (350 mL) and the phases were mixed well and separated. An aliquot of the organic phase was analyzed by HPLC, verifying no significant product, and this layer was discarded. The aqueous phase was added to a flask with CH2Cl2 (350 mL). Concentrated aqueous HCl (about 100 mL) was slowly added to the aqueous phase until the pH=5. The mixture was added back to a separatory funnel and mixed well. The phases were separated and the aqueous layer was extracted a second time with CH2Cl2 (150 mL). The organic layers were combined and charged to a clean flask set up for distillation. The solution was distilled down to 370 mL then displaced with THF by addition of solvent portions followed by continued distillation down to 370 mL after each addition. When the distillation head temp. held steady at 65° C. for 30 min an aliquot was removed and analyzed by 1H NMR, showing a 12.5:1 ratio of THF:CH2Cl2. The solution of 3-cyclopentyl-5-(2,6-diethylpyridin-4-yl)-3-hydroxypentanoic acid in THF was used directly in the next step.

reactant | LiHMDS | 0.355 mol, 1.0 M, 355 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | EtOAc | 0.3583 mol, 35 mL | CCOC(=O)C | C4H8O2
reactant | 1-cyclopentyl-3-(2,6-diethylpyridin-4-yl)propan-1-one | C1(CCCC1)C(CCC1=CC(=NC(=C1)CC)CC)=O | C17H25NO
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 3-cyclopentyl-5-(2,6-diethylpyridin-4-yl)-3-hydroxypentanoic acid | C1(CCCC1)C(CC(=O)O)(CCC1=CC(=NC(=C1)CC)CC)O | C19H29NO3
